US07763610B2
2-hydroxyphenyl benzoate
Sodium carbonate (63.6 g) was added to a solution of pyrocatechol (55 g) in water (230 mL), and to the resulting mixture was added dropwise benzoyl chloride (58 mL) over a period of 2 hours with vigorous stirring. The reaction mixture was stirred for 1 hour at room temperature. The reaction mixture was acidified carefully by dropwise addition of 2N hydrochloroic acid (350 mL) and then extracted with ethyl acetate. The organic layer was washed sequentially with water and saturated brine, dried over anhydrous sodium sulfate and concentrated. The residue was recrystallized from a mixed solvent of ethyl acetate (100 mL) and n-hexane (400 mL) to give the title compound (64.6 g) having the following physical data.

reactant | Sodium carbonate | 63.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyrocatechol | 55 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | benzoyl chloride | 58 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 230 mL | O | H2O
product | 2-hydroxyphenyl benzoate | 64.6 g | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)O | C13H10O3
